US07625895B2
rac-3-[cis-2,3-Bis-(4-chloro-phenyl)-6-(2-methyl-propenyl)-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile
The titled compound was prepared according to general method D by reaction of rac-3-[cis-2,3-bis-(4-chloro-phenyl)-5-oxo-2,3-dihydro-6-iodo-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile with 2,2-dimethylethenylboronic acid. The compound was isolated by FCC (2.5% MeOH/DCM). The expected product was characterized by 1H NMR

reactant | rac-3-[cis-2,3-bis-(4-chloro-phenyl)-5-oxo-2,3-dihydro-6-iodo-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile | ClC1=CC=C(C=C1)[C@@H]1N(C=2N(C(C(=CC2)I)=O)[C@@H]1C1=CC=C(C=C1)Cl)S(=O)(=O)C=1C=C(C#N)C=CC1 | C26H16Cl2IN3O3S
reactant | 2,2-dimethylethenylboronic acid | CC(=CB(O)O)C | C4H9BO2
solvent | MeOH DCM | CO.C(Cl)Cl
product | rac-3-[cis-2,3-Bis-(4-chloro-phenyl)-6-(2-methyl-propenyl)-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile | ClC1=CC=C(C=C1)[C@@H]1N(C=2N(C(C(=CC2)C=C(C)C)=O)[C@@H]1C1=CC=C(C=C1)Cl)S(=O)(=O)C=1C=C(C#N)C=CC1 | C30H23Cl2N3O3S
